US06486156B1
Ethyl magnesium bromide (3M solution in ether; 5.7 ml; 17 mmol) was added dropwise at 0° C. under argon atmosphere to a solution of N-trityl 5-iodoimidazole (6.1 g; 14 mmol). After stirring at 0° C. for 1 hour, a solution of copper (I) cyanide (0.27 g; 3 mmol) and lithium chloride (0.252 g; 6 mmol) in THF (5 ml) was added. The mixture was cooled down to −78° C. and a solution of methyl 4-(3-bromoprop-1-en-1-yl)-2-(4-fluorophenyl)benzoate (3.5 g; 10 mmol) in THF (10 ml) was added. After stirring at −78° C. for 15 minutes, the temperature was allowed to raise to room temperature. The mixture was stirred further overnight. After addition of aqueous ammonium chloride solution and evaporation to dryness, the residue was extracted with dichloromethane/distilled water. The organic layer was evaporated to give methyl 4-[(E)-3-(1-tritylimidazol-5-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate which was used in the next step without further purification.

reactant | Ethyl magnesium bromide | 17 mmol, 3M, 5.7 ml | C(C)[Mg]Br
reactant | N-trityl 5-iodoimidazole | 14 mmol, 6.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC=C1I | C22H17IN2
reactant | copper (I) cyanide | 3 mmol, 0.27 g | [Cu]C#N
reactant | lithium chloride | 6 mmol, 0.252 g | [Cl-].[Li+]
reactant | methyl 4-(3-bromoprop-1-en-1-yl)-2-(4-fluorophenyl)benzoate | 10 mmol, 3.5 g | BrCC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C17H14BrFO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 4-[(E)-3-(1-tritylimidazol-5-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC=C1C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C39H31FN2O2
